US06809110B2
In analogy to the procedure described in example 14 b], (2S)-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester was reacted with 2-(3-chloro-4-fluoro-phenyl)-4-chloromethyl-thiazole (prepared from 3-chloro-4-fluoro-thiobenzamide and 1,3-dichloroacetone in analogy to the procedure described in example 4 a]) in the presence of cesium carbonate and potassium iodide to yield (2S)-3-{4-[2-(3-chloro-4-fluoro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid methyl ester as yellow liquid.

reactant | (2S)-2-ethoxy-3-(4-hydroxy-2-methyl-phenyl)-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)O)C)OCC)=O | C13H18O4
reactant | 2-(3-chloro-4-fluoro-phenyl)-4-chloromethyl-thiazole | ClC=1C=C(C=CC1F)C=1SC=C(N1)CCl | C10H6Cl2FNS
reactant | 3-chloro-4-fluoro-thiobenzamide | ClC=1C=C(C(=S)N)C=CC1F | C7H5ClFNS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | [I-].[K+]
product | (2S)-3-{4-[2-(3-chloro-4-fluoro-phenyl)-thiazol-4-ylmethoxy]-2-methyl-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1)OCC=1N=C(SC1)C1=CC(=C(C=C1)F)Cl)C)OCC)=O | C23H23ClFNO4S
